US05296554
(a) Ethylene/methyl methacrylate/maleic anhydride copolymer
(MFR=8.1 g/10 min, ethylene content=89.1% by weight, methyl methacrylate content=7.8% by weight and maleic anhydride content=3.1% by weight)

reactant | ethylene | C=C | C2H4
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Ethylene/methyl methacrylate maleic anhydride | C=C.C(C(=C)C)(=O)OC.C1(\C=C/C(=O)O1)=O | InChI=1S/C5H8O2.C4H2O3.C2H4/c1-4(2)5(6)7-3;5-3-1-2-4(6)7-3;1-2/h1H2,2-3H3;1-2H;1-2H2
